US06861428B2
1) Preparation of 4-carboxy-2-[2-(4-chlorophenyl)ethyl]-6-(4-fluoro-3-methylphenyl)-2H-pyridazin-3-one
Following the procedure of Example 1(6), 6-(4-fluoro-3-methylphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one and 2-(4-chlorophenyl)ethanol methanesulfonate were reacted. Without purification, the reaction product was reacted further following the procedure of Example 1(7) to yield the title compound as a pale yellow solid (yield: 56.3%).

reactant | 6-(4-fluoro-3-methylphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one | FC1=C(C=C(C=C1)C=1C=C(C(NN1)=O)C(=O)OC)C | C13H11FN2O3
reactant | 2-(4-chlorophenyl)ethanol methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)Cl | C9H11ClO3S
product | 4-carboxy-2-[2-(4-chlorophenyl)ethyl]-6-(4-fluoro-3-methylphenyl)-2H-pyridazin-3-one | yield: 56.3% | C(=O)(O)C=1C(N(N=C(C1)C1=CC(=C(C=C1)F)C)CCC1=CC=C(C=C1)Cl)=O | C20H16ClFN2O3
